data/oMe_Silver.jsonl
{"reaction_id": "NG-005_1-c1ccsc1_2-c1ccc(C)cc1_3-C","name": "Acid-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1ccsc1)C=O","C(c1ccc(C)cc1)(C)=O"],"products_smiles": ["C(c1ccc(C)cc1)(C)=C(C=O)c1ccsc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccsc1)=C(O)c1ccc(C)cc1","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity and facilitating enol formation via resonance-stabilized cation."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C)cc1)(C)=[OH+]","rationale": "Protonation of the second carbonyl increases its electrophilicity, making it more susceptible to nucleophilic attack by the enol."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(C)cc1)(C)(O)C(C=[OH+])c1ccsc1","rationale": "The nucleophilic α-carbon of the enol attacks the protonated carbonyl, favored by strong electrophile activation and conjugation potential."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(C)cc1)(C)(O)C(C=O)c1ccsc1","rationale": "Proton transfer restores the neutral β-hydroxyketone, stabilizing the intermediate through hydrogen bonding and resonance."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(C)cc1)(C)([OH2+])C(C=O)c1ccsc1","rationale": "Protonation of the β-hydroxy group converts it into a better leaving group (water) under acidic conditions."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(C)cc1)(C)=C(C=O)c1ccsc1","rationale": "Loss of water forms a conjugated α,β-unsaturated carbonyl, thermodynamically favored due to extended π-system stabilization."}],"description": "Under acidic conditions, one carbonyl is activated toward enolization, while the other is protonated to enhance electrophilicity. The enol attacks the activated carbonyl, forming a β-hydroxyketone intermediate, which then undergoes acid-catalyzed dehydration to yield the α,β-unsaturated carbonyl product."}
{"reaction_id": "NR-103_1-OCC(F)(F)F_2-Br_3-[N+](=O)[O-]_4-c2sccc2_5-N1CCCCC1","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(OCC(F)(F)F)c(Br)c([N+](=O)[O-])c(c2sccc2)c1N1CCCCC1","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(OCC(F)(F)F)c(Br)c([N+](=O)[O-])c(c2sccc2)c1N1CCCCC1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(OCC(F)(F)F)c(Br)c([N+](=O)[O-])c(c2sccc2)c1N1CCCCC1","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(OCC(F)(F)F)c(Br)c([N+](=O)[O-])c(c2sccc2)c1N1CCCCC1","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
